US08084614B2
A mixture of 5-bromo-4-chloro-2-fluoro-N-methyl-N-o-tolyl-benzamide (2.5 g, 7.0 mmol) was heated in MeONa/MeOH (20 mL, 25%) at 55° C. for 12 hrs, then was concentrated and partitioned between DCM and water. The organic layer was then separated, washed with 3N HCl, sat NaHCO3 and brine, dried over MgSO4, and concentrated. Purification by silica gel column chromatography eluting with ethyl acetate in hexanes (1/4) gave 5-bromo-4-chloro-2-methoxy-N-methyl-N-o-tolyl-benzamide (2.75 g). MS: 367.8 (M+H)*; tR=2.51 min (method 1).

reactant | 5-bromo-4-chloro-2-fluoro-N-methyl-N-o-tolyl-benzamide | 7.0 mmol, 2.5 g | BrC=1C(=CC(=C(C(=O)N(C2=C(C=CC=C2)C)C)C1)F)Cl | C15H12BrClFNO
reactant | MeONa MeOH | 20 mL | CO[Na].CO
product | 5-bromo-4-chloro-2-methoxy-N-methyl-N-o-tolyl-benzamide | 2.75 g | BrC=1C(=CC(=C(C(=O)N(C2=C(C=CC=C2)C)C)C1)OC)Cl | C16H15BrClNO2
